US08957068B2
A solution of (R)-4-phenyloxazolidin-2-one (2.9484 g, 18.07 mmol) and 2,4-dichloropyrimidine (3.1872 g, 21.39 mmol, 1.184 equiv) in DMF (30 mL) was treated with NaH (95%, 0.4773 g, 18.89 mmol, 1.046 equiv), then the resulting mixture (yellow to red cloudy) was stirred at room temperature for 3 h. The reaction mixture was diluted with EtOAc (200 mL), washed with sat. NH4Cl (75 mL) and 4% aqueous NaCl (2×100 mL), dried over Na2SO4, filtered and concentrated. Silica gel column chromatography (EtOAc/Heptane 0 to 40%) provided (R)-3-(2-chloropyrimidin-4-yl)-4-phenyloxazolidin-2-one (2.7020 g, white sticky solid) in 46.9% yield. 1H NMR (400 MHz, CD3OD) δ 8.47 (d, J=5.6 Hz, 1H), 8.18 (d, J=6.1 Hz, 1H), 7.38-7.30 (m, 5H), 5.81 (dd, J=8.6, 3.5 Hz, 1H), 4.88 (t, J=8.6 Hz, 1H), 4.37 (dd, J=8.6, 3.5 Hz, 1H); MS m/z 276.4 (M+H)+.

reactant | (R)-4-phenyloxazolidin-2-one | 18.07 mmol, 2.9484 g | C1(=CC=CC=C1)[C@H]1NC(OC1)=O | C9H9NO2
reactant | 2,4-dichloropyrimidine | 21.39 mmol, 3.1872 g, 1.184 equiv | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | NaH | 18.89 mmol, 0.4773 g, 1.046 equiv | [H-].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (R)-3-(2-chloropyrimidin-4-yl)-4-phenyloxazolidin-2-one | 2.7020 g, 46.9% yield | ClC1=NC=CC(=N1)N1C(OC[C@H]1C1=CC=CC=C1)=O | C13H10ClN3O2
